US06969710B2
4-Chloro-N-(2-methoxy-phenyl)-3-nitrobenzenesulfonamide (Scheme 5, Method 5)
4-Chloro-3-nitrobenzenesulfonamide (1.73 g, 6.78 mmol) was dissolved in CH2Cl2 (7.0 mL). o-Anisidine (1.00 g, 8.13 mmol) was added dropwise at room temperature, followed by a slow addition of pyridine (2.0 mL). After 16 h of continued stirring, the reaction mixture was diluted with EtOAc (50 mL) and washed with 1 M HCl (3×50 mL).

reactant | 4-Chloro-3-nitrobenzenesulfonamide | 6.78 mmol, 1.73 g | ClC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5ClN2O4S
reactant | o-Anisidine | 8.13 mmol, 1.00 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 7.0 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 4-Chloro-N-(2-methoxy-phenyl)-3-nitrobenzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)OC)[N+](=O)[O-] | C13H11ClN2O5S
